US08445530B2
1-(1-Chloro-ethyl)-2-chloromethyl-benzene
1-(2-Hydroxymethyl-phenyl)-ethanol (prepared according to the procedure described in P. Canorme et al., Tetrahedron 44 (1988), 2903-2912) (0.376 g, 2.47 mmol) was dissolved in DCM. Thionyl chloride (2.94 g, 24 mmol) was added and allowed to react for 1 h. The mixture was partitioned between EA and an excess of an aqueous sodium hydrogencarbonate solution. The combined organic extracts were dried over sodium sulfate, filtered and evaporated to dryness in vacuo. The residue was purified by silica gel chromatography with HEP to yield 0.228 g of the title compound.

reactant | 1-(2-Hydroxymethyl-phenyl)-ethanol | OCC1=C(C=CC=C1)C(C)O | C9H12O2
reactant | Thionyl chloride | 24 mmol, 2.94 g | S(=O)(Cl)Cl | Cl2OS
reactant | DCM | C(Cl)Cl | CH2Cl2
product | 1-(1-Chloro-ethyl)-2-chloromethyl-benzene | 0.228 g | ClC(C)C1=C(C=CC=C1)CCl | C9H10Cl2
